US07169797B2
5-(3-(3-Oxo-butyl)-phenyl)-isoxazole-3-carboxylic acid methyl ester
To a mixture of 5-(3-Bromo-phenyl)-isoxazole-3-carboxylic acid methyl ester (1.5 g, 5.3 mmol), Pd(OAc)2 (60 mg, 0.27 mmol), P(o-tolyl)3 (162 mg, 0.53 mmol) in anhydrous N,N-dimethylformamide (15 mL) in a pressure tube was added 3-buten-2-ol (0.92 mL, 10.6 mmol) and triethylamine (1.1 mL, 7.95 mmol). The mixture was flushed with nitrogen for 3 minutes, capped and heated to 100° C. for 30 minutes. The reaction mixture was allowed to cool to ambient temperature, partitioned between ethyl acetate and water (75 mL, 1:1). The organic layer was washed with brine (2×25 mL), dried (Na2SO4), filtered, concentrated under reduced pressure and purified on a Silica Gel MPLC eluting with 20–40% ethyl acetate/hexanes to provide the titled compound as a light yellow solid (860 mg, 59%). MS (ESI(+)) m/e 274 (M+H)+.

reactant | 5-(3-Bromo-phenyl)-isoxazole-3-carboxylic acid methyl ester | 5.3 mmol, 1.5 g | COC(=O)C1=NOC(=C1)C1=CC(=CC=C1)Br | C11H8BrNO3
reactant | P(o-tolyl)3 | 0.53 mmol, 162 mg | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | 3-buten-2-ol | 10.6 mmol, 0.92 mL | CC(C=C)O | C4H8O
reactant | triethylamine | 7.95 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | Pd(OAc)2 | 0.27 mmol, 60 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(3-(3-Oxo-butyl)-phenyl)-isoxazole-3-carboxylic acid methyl ester | 860 mg, 59% | COC(=O)C1=NOC(=C1)C1=CC(=CC=C1)CCC(C)=O | C15H15NO4
